US08937178B2
To a solution of 4-(3-chlorophenyl)phthalazin-1(2H)-one (0.5 g, 1.94 mmol) in DMF (20 mL) was added NaH (60%) (0.116 g, 2.91 mmol) portionwise at 0° C. After stirring for 30 min, 2-bromo-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl) acetamide (0.55 g, 1.94 mmol) in DMF (2 mL) was added dropwise and the reaction mixture warmed to rt overnight. The reaction was quenched with water and the solid collected by filtration. The crude was purified by column chromatography (60-70% EtOAc/hexane) to give 2-(4-(3-chlorophenyl)-1-oxophthalazin-2(1H)-yl-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (0.22 g), (MS: ESI +ve, 459.17 [M+H]). 1H NMR: (400 MHz, DMSO) δ: 2.63 (s, 3H), 3.24 (s, 3H), 4.73 (s, 2H), 7.44-7.46 (d, J=8.0, 1H), 7.55-7.66 (m, 4H), 7.69-7.74 (q, 2H), 7.93 (s, 3H), 8.29-8.31 (d, J=7.2, 1H). Representative compounds of the invention were prepared in a similar manner to examples 1 from 4-chlorophthalazin-1(2H)-one, the corresponding boronic acid or ester, and the appropriate alkylating agent (scheme 1).

reactant | 4-(3-chlorophenyl)phthalazin-1(2H)-one | 1.94 mmol, 0.5 g | ClC=1C=C(C=CC1)C1=NNC(C2=CC=CC=C12)=O | C14H9ClN2O
reactant | NaH | 2.91 mmol, 0.116 g | [H-].[Na+]
reactant | 2-bromo-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl) acetamide | 1.94 mmol, 0.55 g | BrCC(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C | C11H11BrN2O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-1-oxophthalazin-2(1H)-yl-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 0.22 g | ClC=1C=C(C=CC1)C1=NN(C(C2=CC=CC=C12)=O)CC(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C | C25H19ClN4O3
